US05747235
Preparation of p-Toluidine trifluoracetamide (In the manner of Scheme I)
p-Toluidine was dissolved in THF and cooled to 0° C. under a nitrogen atmosphere. Trifluoroacetic anhydride (1 equiv.) was then added dropwise. The solution was allowed to warm to room temperature and was stirred for 18 h. The reaction mixture was then partitioned between ethyl acetate and brine. The organic layer was separated, dried over anhyd. sodium sulfate, and the solvent was removed at reduced pressure. The resulting yellow solid was recrystallized from heptane.

reactant | p-Toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | Trifluoroacetic anhydride | 1 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | C1CCOC1 | C4H8O
product | p-Toluidine trifluoracetamide | FC(C(=O)N)(F)F.NC1=CC=C(C=C1)C | InChI=1S/C7H9N.C2H2F3NO/c1-6-2-4-7(8)5-3-6;3-2(4,5)1(6)7/h2-5H,8H2,1H3;(H2,6,7)
